US09085555B2
A. 3-Chloro-2-(2-fluoro-3-nitro-phenyl)-pyridine
To a solution of 2-bromo-3-chloropyridine [96424-68-9] (144 mg, 0.75 mmol) and 2-fluoro-3-nitrophenylboronic acid pinacol ester [1189042-70-3] (200 mg, 0.75 mmol) in dioxane (4 mL) and water (1 mL) was added potassium carbonate (259 mg, 1.87 mmol) and Pd(dppf)Cl2CH2Cl2 adduct (61.2 mg, 0.075 mmol). The solution was heated for 60 min at 120° C. under microwave irradiation. The reaction mixture was diluted with EtOAc and the resulting solution was washed successively with saturated aqueous NaHCO3 solution and brine, then dried (Phase separator) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (c-hexane/EtOAc 4:1) to give the title compound. MS (LC-MS): 253 [M+H]+; tR (HPLC conditions k): 3.45 min.

reactant | 2-bromo-3-chloropyridine | 0.75 mmol, 144 mg | BrC1=NC=CC=C1Cl | C5H3BrClN
reactant | 2-fluoro-3-nitrophenylboronic acid pinacol ester | 0.75 mmol, 200 mg | FC1=C(C=CC=C1[N+](=O)[O-])B1OC(C)(C)C(C)(C)O1 | C12H15BFNO4
reactant | potassium carbonate | 1.87 mmol, 259 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Chloro-2-(2-fluoro-3-nitro-phenyl)-pyridine | ClC=1C(=NC=CC1)C1=C(C(=CC=C1)[N+](=O)[O-])F | C11H6ClFN2O2
